****************************************
*													*
*			SERIES.CIR							*
*********2 Series X 5 Parallel*************
.include cell_2.lib
.option temp=30
**********First Column************
xcell_01_02 02 01 0201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_02_00 0  02 0002 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_01_02  0201  02 dc 900
virrad_02_00  0002  0  dc 900


**********Secondd Column************
xcell_01_12 12 01 1201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_12_00 0  12 0012 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000

virrad_11_12  1201  12 dc 900
virrad_12_00  0012  0  dc 900


**********Third Column**********
xcell_01_22 22 01 2201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_22_00 0  22 0022 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000


virrad_01_22  2201  22 dc 900
virrad_22_00  0022  0  dc 900

**********Fourth Column**********
xcell_01_32 32 01 3201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_32_00 0 32 0032 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000


virrad_01_32  3201  32 dc 900
virrad_32_00  0032  0  dc 900

**********Five Column**********
xcell_01_42 42 01 4201 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000
xcell_42_00 0  42 0042 cell_2 params:area=49  j0=16E-20 j02=1.2E-12
+ jsc=30.5E-3 rs=28e-3 rsh=100000


virrad_01_42  4201  42 dc 900
virrad_42_00 0042  0  dc 900




vbias 01 0 dc 0


.plot dc i(vbias)

.dc vbias 0 2.1 0.01
.probe
.end
